US06569917B1
Synthesis of bis[2-(2-methacryloyloxyethoxycarbonyl)-ethyl]-(3-triethoxysilylpropyl)amine
43 g (0.25 mol) 3-aminopropyl triethoxysilane in 40 ml anhydrous acetonitrile are added dropwise accompanied by ice-cooling to 92 g (0.5 mol) 2-acryloyloxyethyl methacrylate in 85 ml acetonitrile. After 48 h stirring at room temperature, the aminosilane has completely reacted. The solvent is evaporated off accompanied by the introduction of air at reduced pressure at the rotary evaporator at maximally 46° C. 132.2 g (98% yield) of a lightly-coloured clear oily liquid are obtained.

reactant | 3-aminopropyl triethoxysilane | 0.25 mol, 43 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | 2-acryloyloxyethyl methacrylate | 0.5 mol, 92 g | C(C(=C)C)(=O)OCCOC(C=C)=O | C9H12O4
reactant | aminosilane | N[SiH3] | H5NSi
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | acetonitrile | 85 ml | C(C)#N | C2H3N
product | bis[2-(2-methacryloyloxyethoxycarbonyl)-ethyl]-(3-triethoxysilylpropyl)amine | 132.2 g, 98% yield | C(C(=C)C)(=O)OCCOC(=O)CCN(CCC[Si](OCC)(OCC)OCC)CCC(=O)OCCOC(C(=C)C)=O | C27H47NO11Si
